US07402585B2
An analogous reaction to that described in example 137b, but starting with 5-{[1-(2-tert-butoxyethyl)piperidin-4-yl]oxy}-7-fluoroquinazolin-4(3H)-one (363 mg, 1 mmol) and methanol (162 μl, 4 mmol) at 110° C. for 2 hours yielded 5-{[1-(2-tert-butoxyethyl)piperidin-4-yl]oxy}-7-methoxyquinazolin-4(3H)-one (237 mg, 63% yield):

reactant | 5-{[1-(2-tert-butoxyethyl)piperidin-4-yl]oxy}-7-fluoroquinazolin-4(3H)-one | 1 mmol, 363 mg | C(C)(C)(C)OCCN1CCC(CC1)OC1=C2C(NC=NC2=CC(=C1)F)=O | C19H26FN3O3
reactant | methanol | 4 mmol, 162 μl | CO | CH4O
product | 5-{[1-(2-tert-butoxyethyl)piperidin-4-yl]oxy}-7-methoxyquinazolin-4(3H)-one | 237 mg, 63% yield | C(C)(C)(C)OCCN1CCC(CC1)OC1=C2C(NC=NC2=CC(=C1)OC)=O | C20H29N3O4
